US08404684B2
Step 3) 3-(5-Thioureido-[1,3,4]thiadiazol-2-yl)-propionic acid
Carbethoxy-3-(5-thioureido-[1,3,4]thiadiazol-2-yl)-propionic acid methyl ester (0.675 g, 2.91 mmol) is suspended in 2M NaOH (8 ml) and the reaction is stirred at reflux for 3.5 hours. When cool, the solution is acidified to pH 3 with 6M HCl and the titled compound is removed by filtration and dried.

reactant | Carbethoxy-3-(5-thioureido-[1,3,4]thiadiazol-2-yl)-propionic acid methyl ester | 2.91 mmol, 0.675 g | COC(C(CC=1SC(=NN1)NC(=S)N)C(=O)OCC)=O | C10H14N4O4S2
reactant | HCl | 6M | Cl | ClH
solvent | NaOH | 2M, 8 ml | [OH-].[Na+]
product | 3-(5-Thioureido-[1,3,4]thiadiazol-2-yl)-propionic acid | N(C(=S)N)C1=NN=C(S1)CCC(=O)O | C6H8N4O2S2
